US09382188B2
I) 6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-ol
To a solution of 5-(benzyloxy)-2-(2-fluoro-5-methoxyphenyl)-3-neopentylpyridine (2.95 g) in ethyl acetate (50 mL) was added 10% palladium-carbon (628 mg) and, under a hydrogen atmosphere, the mixture was stirred at room temperature for 20 min. The catalyst was filtered and the filtrate was concentrated to give the title compound (2.26 g) as a white solid.

reactant | 5-(benzyloxy)-2-(2-fluoro-5-methoxyphenyl)-3-neopentylpyridine | 2.95 g | C(C1=CC=CC=C1)OC=1C=C(C(=NC1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C24H26FNO2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 628 mg | [C].[Pd]
product | 6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-ol | 2.26 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=N1)O)CC(C)(C)C | C17H20FNO2
